US05321026
A solution of N-allyl-10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarboxamide, L series (1.1 g), and methyl iodide (0.4 g) in acetone (10 cc) is stirred for 3 days at a temperature in the region of 20° C. and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 45° C. The residue is purified by chromatography on a column (height: 30 cm; diameter: 3 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting successively with a mixture (300 cc) of ethyl acetate and methanol (90:10 by volume) and then with a mixture (500 cc) of ethyl acetate and methanol (80:20 by volume) and collecting 40-cc fractions. Fractions 5 to 15 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. and the residue is taken up with stirring for 30 minutes in isopropyl ether (40 cc). The suspension is filtered and the solid is washed with isopropyl ether (2×5 cc), drained and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. 1-[2-(2-Allylcarbamoyl-10-pheno-thiazinyl)propyl]-1-methyl-2,5-dihydropyrrolium iodide, L series (0.66 g), is thereby obtained in the form of a yellow powder, m.p. about 170° C.

reactant | N-allyl-10-[1-(2,5-dihydro-1-pyrrolyl)-2-propyl]-2-phenothiazinecarboxamide | C(C=C)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CC=CC1)C | C23H25N3OS
reactant | methyl iodide | 0.4 g | CI | CH3I
solvent | acetone | 10 cc | CC(=O)C | C3H6O
product | 1-[2-(2-Allylcarbamoyl-10-pheno-thiazinyl)propyl]-1-methyl-2,5-dihydropyrrolium iodide | [I-].C(C=C)NC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(C[N+]1(CC=CC1)C)C | InChI=1S/C24H27N3OS.HI/c1-4-13-25-24(28)19-11-12-23-21(16-19)26(20-9-5-6-10-22(20)29-23)18(2)17-27(3)14-7-8-15-27;/h4-12,16,18H,1,13-15,17H2,2-3H3;1H
